2170-01-17 06:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2170-1-16**] 10:15 AM
 EKG - At [**2170-1-16**] 10:16 AM
 TRANSTHORACIC ECHO - At [**2170-1-16**] 11:00 AM
   -liver transplant and neurosurg consulted
   -repleted phos w/NaPO in D5W
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2170-1-17**] 12:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-1-17**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 93 (88 - 118) bpm
   BP: 138/87(99) {121/59(77) - 145/87(99)} mmHg
   RR: 15 (14 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,852 mL
                                                                    692 mL
   PO:
             TF:
   IVF:
                                                                  2,852 mL
                                                                    692 mL
   Blood products:
   Total out:
                                                                  1,935 mL
                                                                    410 mL
   Urine:
                                                                  1,935 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    917 mL
                                                                    282 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///23/
   FS 120s-130s
   Physical Examination
   Gen: Alert, awake, interactive
   HEENT: nc/at. PERRL. EOMI. No scleral icterus . O clear. No exudate. No
   JVD
   CV: Reg. Tachy. No m/r/g
   Resp: CTAB
   Abd: Soft. NT/ND. +BS. No HSM. No RUQ tenderness
   Ext: No c/c/e
   Neuro: Alert, awake, oriented to time, person, not place (still thinks
   in [**Hospital6 1782**])
   Labs / Radiology
   208 K/uL
   14.9 g/dL
   134 mg/dL
   1.0 mg/dL
   23 mEq/L
   3.0 mEq/L
   15 mg/dL
   109 mEq/L
   143 mEq/L
   39.3 %
   13.8 K/uL
        [image002.jpg]
                            [**2170-1-15**]  10:58 PM
                            [**2170-1-16**]  03:50 AM
                            [**2170-1-16**]  09:39 AM
                            [**2170-1-16**]  03:48 PM
                            [**2170-1-16**]  08:30 PM
                            [**2170-1-17**]  01:45 AM
   WBC
   18.8
   22.9
   21.3
   14.8
   15.1
   13.8
   Hct
   40.1
   40.6
   42.9
   40.6
   40.9
   39.3
   Plt
   293
   297
   279
   227
   219
   208
   Cr
   0.8
   0.9
   0.9
   0.9
   1.0
   1.0
   Glucose
   75
   70
   98
   139
   128
   134
   Other labs: PT / PTT / INR:34.2/58.2/3.6, CK / CKMB /
   Troponin-T:[**2070**]//, ALT / AST:[**Numeric Identifier 4558**]/9970, Alk Phos / T Bili:65/1.1,
   Amylase / Lipase:66/26, Differential-Neuts:93.8 %, Lymph:4.9 %,
   Mono:0.9 %, Eos:0.2 %, Lactic Acid:0.2 mmol/L, Albumin:3.9 g/dL,
   LDH:[**Numeric Identifier 4559**] IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:1.9 mg/dL
   Imaging: RUQ U/S with Doppler: Normal
   Echo: Normal
   CT head: Normal
   Assessment and Plan
   20 year old gentleman presents with acetaminophen toxicity after a
   suicide attempt.
   .
   # Tylenol OD/ Acute Hepatic Injury:  Patient states time of  ingestion
   around 10:30.  Tylenol level at 2:35 pm 272, 6 pm 175, 75 at 4AM.
   Urine and serum tox screen is otherwise negative.  Lactate and LFts,
   INR all  trending down.  Toxicology, Hepatology neurosurgery and
   Transplant on board. Creatinine slightly up but has otherwise been
   normal. Also monitoring for benadryl toxicity with ECGs and has not had
   any evidence of anticholinergic toxicity
   - Continuing IV N-acetylcysteine, 17 mg/kg/hr infusion, will consider
   d/c if acetaminophen level undetectable
   - Continue to trend LFTs, lytes, coags, lactate q 6 hours
   - Started w/u for possible transplant yesterday including hepatitis
   A,B,C serologies, TSH; CMV IgG/IgM Ab panel; EBV Ab; AFP, CA [**80**]-9; PSA;
   Herpes 1 & 2 IgG ; CEA; RPR (STS); ECG , Echo, transplant social work
   - IVF (D10) and follow blood sugars on D10, has been NPO but will
   advance diet. Concern for impaired gluconeogenesis with liver failure
   but can stop if pt tolerating POs later in day
   - has not met  any Kings College Criteria for transplant, include
   acidosis (pH < 7.3), PT >100 (INR > 6), Cr>3.7, hepatic encephalopathy
   grade [**3-28**]
   - no sedative medications to avoid skewing mental status picture
   - f/u recs from transplant, hepatology, neurosurg
   .
   #  Suicidal attempt.
   - Psych consulted
   - cont 1:1 sitter
   - will need psych hospitalization after medical issues resolve
   - TSH, RPR, B12, folate checked
   .
   # Laceration above right eye:  Not closed in ED given given length of
   time wound remained open
   - received tetanus shot in ED
   - no s/s infection
   .
   # FEN: NPO for now; replete lytes prn and will advance diet to clears
   then full if ok with hepatology and LFTs still trending down
   .
   # Prophylaxis: pneumoboots, PPi (can d/c if tolerates PO intake)
   .
   # Contact: [**Name (NI) **] (mother) and [**Name (NI) 4520**] (sister) [**Telephone/Fax (1) 4521**]
   .
   # Code: Full Code
   .
   # Dispo: ICU for now
 SUICIDALITY / SUICIDE ATTEMPT
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2170-1-15**] 09:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2170-01-18 05:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2170-1-17**] 09:17 AM
   LFTs trending down, Cr going up but good UOP
   Tox: IV NAC x 24 hours ,pre providing LFTs continue to improve, no
   nausea, vomiting, abd pain; Check APAP level, ensure has cleared
   Cr continued to rise, bili rise, AST/ALT, INR down
   Checked urine lytes
   500cc bolus; no longer on D10 with FS 130s
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2170-1-18**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-1-18**] 05:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.9
C (100.2
   HR: 76 (76 - 97) bpm
   BP: 139/66(84) {124/59(79) - 152/98(109)} mmHg
   RR: 18 (15 - 21) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,781 mL
                                                                  1,031 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                  2,301 mL
                                                                  1,031 mL
   Blood products:
   Total out:
                                                                  1,575 mL
                                                                    290 mL
   Urine:
                                                                  1,575 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,206 mL
                                                                    741 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: 7.38/39/107/21/-1
   Physical Examination
   Gen: Alert, awake, interactive
   HEENT: nc/at. PERRL. EOMI. No scleral icterus . O clear. No exudate. No
   JVD
   CV: Reg. Tachy. No m/r/g
   Resp: CTAB
   Abd: Soft. NT/ND. +BS. No HSM. No RUQ tenderness
   Ext: No c/c/e
   Neuro: Alert, awake, oriented to time, person, place ([**Hospital1 19**], [**Location (un) 23**],
   MA)
   Labs / Radiology
   155 K/uL
   13.0 g/dL
   98 mg/dL
   2.4 mg/dL
   21 mEq/L
   3.3 mEq/L
   22 mg/dL
   107 mEq/L
   141 mEq/L
   33.2 %
   8.8 K/uL
        [image002.jpg]
                            [**2170-1-16**]  03:50 AM
                            [**2170-1-16**]  09:39 AM
                            [**2170-1-16**]  03:48 PM
                            [**2170-1-16**]  08:30 PM
                            [**2170-1-17**]  01:45 AM
                            [**2170-1-17**]  08:45 AM
                            [**2170-1-17**]  02:30 PM
                            [**2170-1-17**]  08:30 PM
                            [**2170-1-18**]  03:00 AM
                            [**2170-1-18**]  03:04 AM
   WBC
   22.9
   21.3
   14.8
   15.1
   13.8
   11.9
   11.4
   10.1
   8.8
   Hct
   40.6
   42.9
   40.6
   40.9
   39.3
   36.6
   36.6
   35.1
   33.2
   Plt
   297
   279
   227
   [**Telephone/Fax (2) 4597**]70
   155
   Cr
   0.9
   0.9
   0.9
   1.0
   1.0
   1.4
   1.8
   2.1
   2.4
   TCO2
   24
   Glucose
   70
   98
   139
   128
   134
   128
   134
   116
   98
   Other labs: PT / PTT / INR:20.1/41.7/1.9, CK / CKMB / Troponin-T:641//,
   ALT / AST:5450/1308, Alk Phos / T Bili:68/1.4, Amylase / Lipase:66/26,
   Differential-Neuts:93.8 %, Lymph:4.9 %, Mono:0.9 %, Eos:0.2 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.3 g/dL, LDH:559 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.5 mg/dL, PO4:3.6 mg/dL
   Acetaminophen Neg
   Assessment and Plan
   20 year old gentleman presents with acetaminophen toxicity after a
   suicide attempt.
   .
   # Tylenol OD/ Acute Hepatic Injury:  Time of ingestion around 10:30pm.
   Tylenol level at 2:35 pm 272, 6 pm 175, 75 at 4AM.  Tylenol level
   negative today. Urine and serum tox screen is otherwise negative.
   Lactate and LFts, INR all  trending down. Bilirubin had bumped slightly
   overnight but back down again.  Toxicology, Hepatology neurosurgery and
   Transplant on board. Creatinine trending up last 48 hours as discussed
   below.  Also monitoring for benadryl toxicity with ECGs and has not had
   any evidence of anticholinergic toxicity. Pt also without complaints of
   abdominal pain, vomiting, although did have some nausea overnight. Has
   been normoglycemic off D10 without e/o impaired gluconeogenesis
   - Continuing IV N-acetylcysteine, 17 mg/kg/hr infusion, will consider
   d/c since acetaminophen level undetectable and tox recommended 24 more
   hours. Also, NAC not known to help with renal failure associated with
   Tylenol OD
   - Continue to trend LFTs, lytes, coags, lactate q 6 hours
   - Started w/u for possible transplant including hepatitis A,B,C
   serologies, TSH; CMV IgG/IgM Ab panel; EBV Ab; AFP, CA [**80**]-9; PSA;
   Herpes 1 & 2 IgG ; CEA; RPR (STS); ECG , Echo, transplant social work
   - has not met  any Kings College Criteria for transplant, include
   acidosis (pH < 7.3), PT >100 (INR > 6), Cr>3.7, hepatic encephalopathy
   grade [**3-28**]
   - avoid sedating medications
   - f/u recs from transplant, hepatology, neurosurg
   .
   # Acute Renal Failure: Pt with continued steady rise in creatinine last
   48 hours. Fena 1.2 so mixed picture. Tried 500cc bolus yesterday which
   did not seem to do much. Has had adequate UOP, 30-50cc/hour. Since NPO,
   may be dry and prerenal azoetmia component but likely from Tylenol OD
   (renal impairment usually occurs at 48-72 hours) from direct
   toxicity/ATN picture.
   -          Maintenance fluids while NPO
   -          Follow Cr, UOP, bolus for UOP<30cc/hr
   .
   # Low grade fever: had isolated fever spike but afebrile currently, not
   cultured since not aware of fever overnight. Lungs clear. Possible
   source of infection includes foley. Will remove foley since good UOP,
   and get U/A and cx. Lungs clear. No lines or other source infection but
   could consider CXR if develops symptoms.
   - Remove foley
   - Check U/A and urine cx
   - CIS
   .
   #  Suicidal attempt.
   - Psych consulted
   - cont 1:1 sitter
   - will need psych hospitalization after medical issues resolve
   .
   # Laceration above right eye:  Not closed in ED given given length of
   time wound remained open
   - received tetanus shot in ED
   - no s/s infection or oozing
   .
   # FEN: NPO for now; replete lytes prn and will advance diet to clears
   if ok with hepatology and transplant
   .
   # Prophylaxis: pneumoboots, PPi (can d/c if tolerates PO intake)
   .
   # Contact: [**Name (NI) **] (mother) and [**Name (NI) 4520**] (sister) [**Telephone/Fax (1) 4521**]
   .
   # Code: Full Code
   .
 SUICIDALITY / SUICIDE ATTEMPT
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2170-1-15**] 09:31 PM
   20 Gauge - [**2170-1-17**] 03:27 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: